US07365231B2
1,3-Bis(4-amino-3-hydroxyphenoxy)benzene was synthesized in a manner analogous to Example 2 from 1,3-bis(3-hydroxy-4-nitrophenoxy)benzene. Yield: 81%; mp 171˜174° C.; IR (KBr): 3414, 3342, 1588, 1518 cm−1; MS (EI) m/z 324 (M+, 100); Elemental Anal. Calcd. for C18H16N2O4: C, 66.67; H, 4.94; N, 8.64. Found: C, 66.45; H, 5.02; N, 8.53.

reactant | 1,3-bis(3-hydroxy-4-nitrophenoxy)benzene | OC=1C=C(OC2=CC(=CC=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C18H12N2O8
reactant | KBr | [K+].[Br-]
product | 1,3-Bis(4-amino-3-hydroxyphenoxy)benzene | Yield: 81% | NC1=C(C=C(OC2=CC(=CC=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C18H16N2O4
